US08067441B2
4-Methylsulfanyl-[2,2′]bipyridinyl 1-oxide (480 mg, 2.20 mmol) was treated under nitrogen with diethyl phosphorocyanidate and triethylamine in dry acetonitrile following a described procedure (I. Antonioni; G. Cristalli; P. Franchetti; M. Grifantini; S. Martelli, Il Farmaco, 1986, 41, 346-354). Crystallization in ethyl acetate afforded 4-methylsulfanyl-[2,2′]bipyridinyl-6-carbonitrile as a white solid (360 mg, 72% yield)

reactant | 4-Methylsulfanyl-[2,2′]bipyridinyl 1-oxide | 2.20 mmol, 480 mg | CSC=1C=C([N+](=CC1)[O-])C1=NC=CC=C1 | C11H10N2OS
reactant | diethyl phosphorocyanidate | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-methylsulfanyl-[2,2′]bipyridinyl-6-carbonitrile | 360 mg, 72% yield | CSC1=CC(=NC(=C1)C#N)C1=NC=CC=C1 | C12H9N3S
